US06617342B1
(A) 6-(2-Fluorobezyloxy)-2-naphthol
A stirred solution of 15.0 g (94.0 mM) of 2,6-dihydroxynaphthalene in 60 mL of DMF was treated with 3.21 g (80.0 mM) of NaH under nitrogen. The resulting dark solution was treated dropwise with a solution of 5.94 g (31.0 mM) of 2-fluorobenzyl bromide in 20 mL of Et2O over 0.75 h. The mixture was stirred an additional 2 h then treated cautiously with 200 mL 1N HCl. The mixture was stirred 8 to 16 hours then filtered. The solid was washed thoroughly with water and dried. Flash chromatography produced a solid which was recrystallized from i-PrOH to afford 4.51 g (56%) of product as gray crystals mp 143-144° C.

reactant | 2,6-dihydroxynaphthalene | 94.0 mM, 15.0 g | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
reactant | NaH | 80.0 mM, 3.21 g | [H-].[Na+]
reactant | 2-fluorobenzyl bromide | 31.0 mM, 5.94 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 6-(2-Fluorobezyloxy)-2-naphthol | 4.51 g, 56% | FC1=C(COC=2C=C3C=CC(=CC3=CC2)O)C=CC=C1 | C17H13FO2
